US08664258B2
4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol (500 mg, 2643 μmol), (R)-tert-butyl 1-bromopropan-2-ylcarbamate (755 mg, 3171 μmol) and cesium carbonate (1205 mg, 3700 μmol) were weighed into a vial with anhydrous acetone (3.0 mL). The reaction was heated in a microwave at 100° C. for an hour. After this time, the crude LC/MS showed that the reaction was nearly complete. Thus, the solvent was evaporated and the resulting material was extracted (3 mL each of H2O and CH2Cl2). The aqueous layer was extracted again with CH2Cl2 (3 mL). The combined organic layer was dried over MgSO4, filtered, and concentrated. The product was purified by column chromatography (0, 20, 50, 70, 100% EtOAc/Hexanes) to yield tert-butyl(R)-1-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)propan-2-ylcarbamate (487 mg, 1.41 mmol, 50.7%) as a light brown colored oil. LCMS m/z 347.1 (M+H); 1H NMR (400 MHz, MeOH-d4) δ ppm 0.92 (d, J=6.57 Hz, 3 H), 1.32 (s, 9 H), 3.60 (s, 3 H), 3.69-3.76 (m, 1 H), 3.79-3.94 (m, 2 H), 6.13 (d, J=1.77 Hz, 1 H), 6.57 (d, J=2.78 Hz, 1 H), 6.72 (dd, J=8.59, 2.78 Hz, 1 H), 6.83 (d, J=8.84 Hz, 1 H), 7.36 (d, J=2.02 Hz, 1 H).

reactant | 4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol | 2643 μmol, 500 mg | NC1=CC(=C(C=C1)O)C1=CC=NN1C | C10H11N3O
reactant | (R)-tert-butyl 1-bromopropan-2-ylcarbamate | 3171 μmol, 755 mg | BrC[C@@H](C)NC(OC(C)(C)C)=O | C8H16BrNO2
reactant | cesium carbonate | 3700 μmol, 1205 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 3.0 mL | CC(=O)C | C3H6O
product | tert-butyl(R)-1-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)propan-2-ylcarbamate | 1.41 mmol, 487 mg, 50.7% | NC1=CC(=C(OC[C@@H](C)NC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C18H26N4O3
